US05648496
4-Nitropyridine (124 mg, 1 mmol) and O-methylhydroxylamine (71 mg, 1.5 mmol) were dissolved in DMF (2 ml), and a resulting solution was added dropwise to a DMF solution (3 ml) containing potassium tert-butoxide (336 mg, 3 mmol) and zinc (II) chloride (136 mg, 1 mmol) at 25° C. After completion of the addition, the resulting mixture was at 25° C. for one hour and an aqueous saturated ammonium chloride solution (50 ml) was added, followed by extraction with ethyl acetate (80 ml). A resulting organic layer was dried over anhydrous magnesium sulfate, and then isolated and purified by subjecting to silica gel thin layer chromatography (eluent: ethyl acetate/hexane=1/1] to obtain 35 mg of 3-amino-4-nitropyridine (yield: 25%).

reactant | 4-Nitropyridine | 1 mmol, 124 mg | [N+](=O)([O-])C1=CC=NC=C1 | C5H4N2O2
reactant | O-methylhydroxylamine | 1.5 mmol, 71 mg | CON | CH5NO
reactant | potassium tert-butoxide | 3 mmol, 336 mg | CC(C)([O-])C.[K+]
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | zinc (II) chloride | 1 mmol, 136 mg | [Cl-].[Zn+2].[Cl-]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3-amino-4-nitropyridine | 35 mg, yield: 25% | NC=1C=NC=CC1[N+](=O)[O-] | C5H5N3O2
